2129-05-22 08:52:00 Physician Attending Progress Note
Chief Complaint: CR arrest
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diarrhea, decreased po intake and UO, lost pulse in ambulance, AED no
   shock, regained pulse, bagged, SBP 140 in hospital, cooled due to
   arrest.
   24 Hour Events:
 ARTERIAL LINE - START [**2129-5-21**] 07:00 PM
 MULTI LUMEN - START [**2129-5-21**] 07:02 PM
 BLOOD CULTURED - At [**2129-5-22**] 04:35 AM
   drawn from aline.
   Cooling protocol abandoned because machine started rewarming him,
   bleeding risk, active infection: cdiff.
   OG lavage: clear, occult +
   Guiac neg stool, yellow
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2129-5-21**] 09:42 PM
   Daptomycin - [**2129-5-22**] 12:15 AM
   Metronidazole - [**2129-5-22**] 04:00 AM
   Vancomycin - [**2129-5-22**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-5-22**] 07:43 AM
   Pantoprazole (Protonix) - [**2129-5-22**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-22**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96
   HR: 71 (68 - 91) bpm
   BP: 117/59(78) {97/54(67) - 117/67(84)} mmHg
   RR: 14 (13 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (6 - 10)mmHg
   Total In:
                                                                    220 mL
                                                                  1,346 mL
   PO:
   TF:
   IVF:
                                                                    220 mL
                                                                  1,346 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                    250 mL
   Urine:
                                                                    205 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                  1,096 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 455 (455 - 455) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   Compliance: 59.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/29/115/15/-10
   Ve: 13.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: interactive, follws commands, No acute distress
   Eyes / Conjunctiva: Pupils constricted but reactive to light, ETT
   Cardiovascular: (PMI Normal), distant HS, RRR, no M/G/R
   Peripheral Vascular: (bilateral radial pulses
   Lungs: CTA bilaterally, no wheezes/rales, barrel-chested
   Abd: soft, nontender, +bs, no HSM
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, + Clubbing
   Skin:  Cool (under Arctic sun protocol), Scattered ecchymoses:
   Neurologic: Responds toverbal stimuli, sedated, n
l tone, +muscle
   wasting
   Labs / Radiology
   6.9 g/dL
   297 K/uL
   71 mg/dL
   1.1 mg/dL
   15 mEq/L
   3.3 mEq/L
   11 mg/dL
   122 mEq/L
   144 mEq/L
   22.1 %
   7.2 K/uL
        [image002.jpg]
                             [**2129-5-21**]  07:53 PM
                             [**2129-5-21**]  08:23 PM
                             [**2129-5-21**]  11:13 PM
                             [**2129-5-22**]  04:31 AM
                             [**2129-5-22**]  04:42 AM
                             [**2129-5-22**]  06:45 AM
   WBC
   9.0
   7.2
   Hct
   23.1
   22.6
   22.1
   Plt
   316
   297
   Cr
   1.2
   1.1
   TropT
   0.07
   0.06
   TCO2
   17
   17
   15
   Glucose
   166
   71
   Other labs: PT / PTT / INR:16.0/36.3/1.4, CK / CKMB /
   Troponin-T:31//0.06, Differential-Neuts:80.1 %, Lymph:16.7 %, Mono:2.9
   %, Eos:0.2 %, Lactic Acid:0.8 mmol/L (down from 5.5), Albumin:1.8 g/dL,
   Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   Microbiology: Spu: 2+ GNR, 1+ GPC in pairs and clusters
   U/Blood: pend
   CXR: COPD, IPF, bibasilar infiltrates
   CT chest: emphysema + IPF
   CT [**Last Name (un) **]: bilateral pyelo
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTHERMIA
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   77 yo male with recent VRE bacteremia and Cdiff infection with recurent
   diarrhea, recent malaise and s/p arrest, down for unknown length of
   time. Recovered quickly, awake and following comands this am, wants the
   tube out.
   - Cardiac arrest: recovered quickly, likely PEA due to sepsis and
   hypotension. Check TTE. Low grade trop leak. HD stable at this time.
   ASA held due to hx of GIB.
   - ID: cdiff, pneumonia, pyelo, VRE bacteremia. Covered well with po
   vanc, iv flagyl, iv dapto, iv cefepime. All cxs pend. Add cipro for
   2^nd GNR coverage.
   - Resp: NAG acidosis with hyperchloremia: due to diarrhea and NS
   resuscitation, give a few ams of bicarb to help decrease minute
   ventilation, put on SBT, and extubate. Current smoker, continue nebs.
   - EtOH abuse: thiamine/folate/MVI. Lies about his drinking . CIWA
   scale.
   - DM: Podiatry f/u for foot laceration. Riss.
   - GIB: hx of esophageal and stoomach ulcers, guiac neg this admission
   ICU Care
   Nutrition: NPO
   Glycemic Control: riss
   Lines / Intubation: right IJ, ETT
   Multi Lumen - [**2129-5-21**] 07:02 PM
   Comments:
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  PPI [**Hospital1 7**]
   VAP:  elevate HOB, daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
    Weaned on vent successfully and ready for extubation.
   Exam notable for    Tmax: 37.7
C (99.9
F)  Tcurrent: 35.6
C ([**Age over 90 **]
F)   HR: 71 (68 - 91) bpm   BP: 117/59(78) {97/54(67) - 117/67(84)}
   mmHg   RR: 14 (13 - 17) insp/min   SpO2: 100%   Heart rhythm: SR (Sinus
   Rhythm)  CVP: 9 (6 - 10)mmHg
   Balance:   15 mL
   PSV  10/5/0.4  Vt (Spontaneous): 455 (455 - 455) mL   RR (Spontaneous):
   25    RSBI: 40   SpO2: 100%
   7.31/29/115      Ve: 13.1 L/min     PaO2 / FiO2: 287
   Intubated, awake, following commands
   Lungs clear
   RRR
   Abd benign
   Extreme no edema
   Labs reviewed and recorded above
   Imaging:   CXR bilateral interstitial infiltrates, ? new LLL pna
   Problems: resp failure, cardiac arrest, likely new pna, recent
   bacteremia, CDiff, non-gap acidosis
   Agree with plan to work towards extubation, continue abx, follow heart
   rhythm
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2129-5-22**] 14:51 ------

2129-05-23 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated, did very well
   -Hematocrit stable
   -Infection: no new culture data, no fever
   -Podiatry to see tomorrow. Dry dressing to foot wound.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2129-5-22**] 05:00 AM
   Cefipime - [**2129-5-22**] 10:00 PM
   Daptomycin - [**2129-5-23**] 12:00 AM
   Ciprofloxacin - [**2129-5-23**] 12:45 AM
   Metronidazole - [**2129-5-23**] 05:41 AM
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2129-5-22**] 11:23 AM
   Pantoprazole (Protonix) - [**2129-5-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-5-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-5-23**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.1
   HR: 102 (71 - 103) bpm
   BP: 115/45(66) {102/43(62) - 128/66(88)} mmHg
   RR: 26 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  2,484 mL
                                                                    520 mL
   PO:
   TF:
   IVF:
                                                                  2,324 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    355 mL
   Urine:
                                                                    840 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,644 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 726 (455 - 726) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.35/26/98.[**Numeric Identifier 176**]/15/-9
   Ve: 10.6 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   360 K/uL
   8.1 g/dL
   88 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.9 mEq/L
   12 mg/dL
   122 mEq/L
   146 mEq/L
   25.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-5-21**]  07:53 PM
                             [**2129-5-21**]  08:23 PM
                             [**2129-5-21**]  11:13 PM
                             [**2129-5-22**]  04:31 AM
                             [**2129-5-22**]  04:42 AM
                             [**2129-5-22**]  06:45 AM
                             [**2129-5-22**]  09:56 AM
                             [**2129-5-22**]  10:11 AM
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
   WBC
   9.0
   7.2
   11.4
   Hct
   23.1
   22.6
   22.1
   25.8
   25.1
   Plt
   [**Telephone/Fax (3) 8341**]
   Cr
   1.2
   1.1
   1.3
   TropT
   0.07
   0.06
   TCO2
   17
   17
   15
   15
   15
   Glucose
   166
   71
   88
   Other labs: PT / PTT / INR:16.0/36.3/1.4, CK / CKMB /
   Troponin-T:31//0.06, Differential-Neuts:80.1 %, Lymph:16.7 %, Mono:2.9
   %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   73 yoM w/ a h/o PVD, DM, CAD and recent C diff presenting with PEA
   arrest following 4 days of general malaise.
   # Arrest: PEA arrest.  Likely related to sepsis of multiple sources
   difficle, VRE/S. epi bacteremia previously, pyelonephritis.  Has not
   required pressors.  Follow up all cultures.  Off cooling protocol
   -Cefepime, daptomycin, flagyl, po vancomycin and add ciprofloxacin
   -Follow lactate, BP stable
   -evaluation of anemia
   # Anemia: likely acute blood loss as he has gastoccult positive NG
   lavage. No RP bleed on CT torso yesterday.  History of esophageal and
   stomach ulcers. GI wanted repeat EGD in 6 weeks in early [**Month (only) 51**].  Also had
   colonoscopy with blood seen but no actively bleeding lesion.  Also,
   likely component of dehydraiton/volume contraction at admission, and
   drop in HCT may be related to hydration.
   -trend hematocrit
every 6 hours X 24 hours
   -transfuse for <21
   -Consider GI consult for repeat endoscopy
   # Respiratory: on ventilatory [**1-3**] arrest.
   -attempt to wean settings, currently limited by metabolic acidosis
   -Bicarbonate and repeat ABG, then SBT
   # ETOH abuse: per old notes had drank 4oz of vodka per day
   -CIWA once extubated
   -thiamine IV, folate, MVI daily
   # Bilateral renal infarcts vs. pyelonephritis
   -Antibiotics as above
   -Echo to evaluate for vegetations and s/p arrest
   -trend cr, currently 1.6 (baseline 1.5 - 2.0)
   # CAD: h/o MI in [**2120**], s/p stent at that time
   -EKG today
   -ASA 325mg in ER, no further as h/o GIB/PUD and CK negative
   -continue lipitor and beta blocker (home dose is low dose lopressor
   12.5mg po bid)
   # DM:
   -HISS, last A1C was 6% in [**7-9**]
   # COPD: standing inhaler q6hrs (albuterol and atrovent)
   # LE ulcers: contact Podiatry
   FEN: IVFs / replete lytes prn / NPO / OG tube
   PPX: SQ heparin tid, bowel regimen prn, [**Hospital1 **] PPI (home medication)
   ACCESS: PIV's
   CODE STATUS: full
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-5-21**] 07:00 PM
   Multi Lumen - [**2129-5-21**] 07:02 PM
   18 Gauge - [**2129-5-22**] 08:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-05-23 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yo man with CAD, CVA, PVA, DM. ETOH abuse.  Recent admit with C.
   diff and VRE.  Went to rehab where he left AMA.  At home was getting
   worse with diarrhea, had arrest.  Intubated and came to ED where he was
   placed on cooling protocol for brief time.  Has improved and has been
   extubation.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-5-22**] 01:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-5-22**] 05:00 AM
   Daptomycin - [**2129-5-23**] 12:00 AM
   Ciprofloxacin - [**2129-5-23**] 12:45 AM
   Metronidazole - [**2129-5-23**] 05:41 AM
   Cefipime - [**2129-5-23**] 11:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-5-23**] 12:00 AM
   Pantoprazole (Protonix) - [**2129-5-23**] 08:00 AM
   Other medications:
   albuterol
   atrovent
   SSI
   vanco PO
   atorvastatin
   lopressor
   thiamine
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2129-5-23**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 100 (79 - 117) bpm
   BP: 96/42(58) {96/42(58) - 126/62(82)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  2,484 mL
                                                                    725 mL
   PO:
   TF:
   IVF:
                                                                  2,324 mL
                                                                    725 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    490 mL
   Urine:
                                                                    840 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,644 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 726 (726 - 726) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.35/26/98.[**Numeric Identifier 176**]/15/-9
   Ve: 10.6 L/min
   PaO2 / FiO2: 163
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.1 g/dL
   360 K/uL
   88 mg/dL
   1.3 mg/dL
   15 mEq/L
   3.9 mEq/L
   12 mg/dL
   122 mEq/L
   146 mEq/L
   25.1 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-5-21**]  07:53 PM
                             [**2129-5-21**]  08:23 PM
                             [**2129-5-21**]  11:13 PM
                             [**2129-5-22**]  04:31 AM
                             [**2129-5-22**]  04:42 AM
                             [**2129-5-22**]  06:45 AM
                             [**2129-5-22**]  09:56 AM
                             [**2129-5-22**]  10:11 AM
                             [**2129-5-22**]  12:26 PM
                             [**2129-5-23**]  04:21 AM
   WBC
   9.0
   7.2
   11.4
   Hct
   23.1
   22.6
   22.1
   25.8
   25.1
   Plt
   [**Telephone/Fax (3) 8341**]
   Cr
   1.2
   1.1
   1.3
   TropT
   0.07
   0.06
   TCO2
   17
   17
   15
   15
   15
   Glucose
   166
   71
   88
   Other labs: PT / PTT / INR:16.0/36.3/1.4, CK / CKMB /
   Troponin-T:31//0.06, Differential-Neuts:80.1 %, Lymph:16.7 %, Mono:2.9
   %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:1.8 g/dL, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 CARDIAC ARREST:  Related to sepsis and maybe ?aspiration.  but no
   evidence of continued PNA.
   Will continue just C. diff treatment.  has completed course for VRE.
   Delirium: Currently disoriented.  delirium versus ETOH withdrawl.  will
   follow for now, give low dose haldol for delirium
   Increased creatinine:  is likely slighly hypovolemic, esp. given
   hyponatremia.  continue free water
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):  had +NGL, but
   Hct stable, no specific therapy except for PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-5-21**] 07:00 PM
   Multi Lumen - [**2129-5-21**] 07:02 PM
   18 Gauge - [**2129-5-22**] 08:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes